US06313126B1
3-[(1,4-cis)-4-(4-Quinolin-5-yl-piperazin-1-yl)-cyclohexyl]-1H-indole-5-carbonitrile
To a solution of 5-(1-piperazinyl)-quinoline (500 mg, 2.35 mmol), 4-(5-cyano-1H-3-indolyl)-cyclohexanone (540 mg, 2.35 mmol), and sodium triacetoxyborohydride (740 mg, 3.5 mmol) in dichloroethane (20 mL) was added acetic acid (0.27 mL, 4.7 mmol) and stirred overnight at room temperature. The reaction was quenched with 1 M NaOH (50 mL) and extracted in CH2Cl (3×100 mL). The organic fractions were combined, dried over Na2SO4, concentrated, filtered and chromatographed (5% MeOH/EtOAc) yielding 410 mg (41%) of the cis isomer as a white solid. The HCl salt was generated from EtOAc yielding a white solid: mp 220-223° C. Elemental Analysis for C28H29N5.HCl.1H2O; Calc'd C, 68.62; H, 6.58; N, 14.29; Found C, 68.99; H, 6.54; N, 14.06.

reactant | 5-(1-piperazinyl)-quinoline | 2.35 mmol, 500 mg | N1(CCNCC1)C1=C2C=CC=NC2=CC=C1 | C13H15N3
reactant | 4-(5-cyano-1H-3-indolyl)-cyclohexanone | 2.35 mmol, 540 mg | C(#N)C=1C=C2C(=CNC2=CC1)C1CCC(CC1)=O | C15H14N2O
reactant | sodium triacetoxyborohydride | 3.5 mmol, 740 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 4.7 mmol, 0.27 mL | C(C)(=O)O | C2H4O2
reactant | HCl | Cl | ClH
solvent | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-[(1,4-cis)-4-(4-Quinolin-5-yl-piperazin-1-yl)-cyclohexyl]-1H-indole-5-carbonitrile | C1CC(CCC1C2=CNC3=C2C=C(C=C3)C#N)N4CCN(CC4)C5=CC=CC6=C5C=CC=N6 | C28H29N5
